US07632857B2
(2-Fluoro-3-pyridin-4-yl-phenyl)-(2 (S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure FF starting from 3-pyridine boronic acid and (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone. MS (ES+) 354.2

reactant | 3-pyridine boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
product | (2-Fluoro-3-pyridin-4-yl-phenyl)-(2 (S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC=C1C1=CC=NC=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H24FN3O
